US05075319
A mixture of 6 g 2,6-di(trifluoromethyl)-4-hydroxypyridine and 4.9 ml phosphorus tribromide was heated 15 min. at 140°-150° C. and 90 min. at 160°-170° C. The reaction mixture was cooled, 150 ml methylene dichloride added, and poured into ice-water. From the methylene dichloride layer there was isolated 3.5 g 4-bromo-2,6-di(trifluoromethyl)pyridine, colorless solid, m.p. 92°-95° C.

reactant | 2,6-di(trifluoromethyl)-4-hydroxypyridine | 6 g | FC(C1=NC(=CC(=C1)O)C(F)(F)F)(F)F | C7H3F6NO
reactant | phosphorus tribromide | 4.9 ml | P(Br)(Br)Br | Br3P
solvent | methylene dichloride | C(Cl)Cl | CH2Cl2
solvent | methylene dichloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 4-bromo-2,6-di(trifluoromethyl)pyridine | 3.5 g | BrC1=CC(=NC(=C1)C(F)(F)F)C(F)(F)F | C7H2BrF6N
